US04323681
Free p-chlorobenzamidine base is prepared by addition of p-chlorobenzamidine hydrochloride (30.000 g., 0.157 mole) to a solution of sodium (3.795 g., 0.165 mole) in absolute ethanol (400 ml.) in a nitrogen atmosphere. After stirring for one hour, ethoxymethylenemalononitrile (20.151 g., 0.165 mole) is added followed by ethanol (350 ml.) to facilitate stirring. After stirring at ambient temperature for ca. 70 hours, the mixture is refluxed for ten minutes, cooled, filtered and the solid product washed with ethanol (100 ml.), water (2×50 ml.) then dried at 80° C./house vac. then at 100° C./house vac./2 hours. The yield of colorless crystals melting at 267.0°-267.5° C. (uncorr.) is 27.9 g. (77.1%). The initial product is recrystallized from 1,2-dimethoxyethane affording colorless needles melting at 267.0°-267.5° C. (uncorr.) in a yield of 20.160 g. (55.7%). Concentration of the mother liquors afforded two additional crops of colorless needles: first crop (4.525 g., 12.5%), melting at 266.0°-267.5° C. (uncorr.); second crop (1.479 g., 4.1%), melting at 265.0°-265.5° C. (uncorr.).

reactant | p-chlorobenzamidine hydrochloride | 0.157 mole, 30.000 g | Cl.ClC1=CC=C(C(=N)N)C=C1
reactant | sodium | 0.165 mole, 3.795 g | [Na] | Na
reactant | ethoxymethylenemalononitrile | 0.165 mole, 20.151 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | p-chlorobenzamidine | ClC1=CC=C(C(=N)N)C=C1 | C7H7ClN2
